US08536183B2
(2S)-1-[(6-Fluoro-4-methyl-3-pyridinyl)carbonyl]-2-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine
HATU (440 mg, 1.16 mmol) was added to a solution of 6-fluoro-4-methyl-3-pyridinecarboxylic acid (supplied by Frontier Scientific) (150 mg, 0.97 mmol) in DMF (4 ml) and the mixture was treated with DIPEA (0.422 ml, 2.42 mmol). This mixture was stirred for ca. 10 min at ambient temperature. (3S)-3-Methyl-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (may be prepared as described in Description 2) (358 mg, 1.16 mmol) was added and stirring was continued for 1.25 h. The reaction mixture was partitioned between DCM and saturated aqueous NaHCO3 solution (20 ml each). The layers were separated and the aqueous was washed with further DCM (2×20 ml). The combined organic layers were concentrated to leave a dark brown gum. Purification by silica chromatography (Biotage SP4, 25S cartridge), eluting with 12-100% ethyl acetate in hexanes, gave the title compound (432 mg) as a yellow gum.

reactant | HATU | 1.16 mmol, 440 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-fluoro-4-methyl-3-pyridinecarboxylic acid | 0.97 mmol, 150 mg | FC1=CC(=C(C=N1)C(=O)O)C | C7H6FNO2
reactant | DIPEA | 2.42 mmol, 0.422 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (3S)-3-Methyl-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 1.16 mmol, 358 mg | C[C@H]1CN(CCN1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C12H15F3N2O2S
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (2S)-1-[(6-Fluoro-4-methyl-3-pyridinyl)carbonyl]-2-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 432 mg | FC1=CC(=C(C=N1)C(=O)N1[C@H](CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C19H19F4N3O3S
